US09023865B2
Reference: Angew. Chemie Int. Ed., 2011, 50(31), 7153. To a 2 dram pressure vial charged with a magnetic stir bar was added anhydrous NaI (3.4 mg, 0.023 mmol), THF (1 ml), and 6-chloro-3-(prop-1-en-2-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridine (50 mg, 0.115 mmol) under nitrogen. To this was added (trifluoromethyl)trimethylsilane (0.042 ml, 0.287 mmol). The reaction vessel was sealed and heated to 65° C. in an oil bath for a period of 2.5 hours. LCMS and TLC indicated product and remaining starting material. Additional sodium iodide (3.4 mg, 0.023 mmol) and (trifluoromethyl)-trimethylsilane (0.042 ml, 0.287 mmol) were added and the reaction was heated overnight at 65° C. The reaction mixture was concentrated and taken up in ether (15 ml). The organic layer was washed with water (15 ml), saturated sodium thiosulfate solution (15 ml), saturated sodium bicarbonate solution (15 ml), and water (15 ml), in that order. The ethereal layer dried over anhydrous magnesium sulfate, concentrated, and purified (12 g silica gel, eluting with 0-10% tOAc/hexanes) to give 6-chloro-3-(2,2-difluoro-1-methylcyclopropyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine (60 mg, 0.123 mmol) as a beige foam. MS ESI calc'd. for C29H22ClF2N3[M+1]+ 486, found 486.

reactant | NaI | 0.023 mmol, 3.4 mg | [Na+].[I-]
reactant | 6-chloro-3-(prop-1-en-2-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.115 mmol, 50 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C)C | C28H22ClN3
reactant | (trifluoromethyl)trimethylsilane | 0.287 mmol, 0.042 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | sodium iodide | 0.023 mmol, 3.4 mg | [I-].[Na+]
reactant | (trifluoromethyl)-trimethylsilane | 0.287 mmol, 0.042 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 6-chloro-3-(2,2-difluoro-1-methylcyclopropyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.123 mmol, 60 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2(C(C2)(F)F)C | C29H22ClF2N3
